US08580803B2
Synthesis of 3-((5-benzoyl-7H-pyrrolo[2,3-d]pyrimidine-4-yl)amino-N-phenylbenzamide
To a solution of 3-((5-benzoyl-7H-pyrrolo[2,3-d]pyrimidine-4-yl)amino)benzoic acid (25 mg, 0.07 mmol) in DMF (1 mL) was added DIPEA (18 μL, 0.105 mmol), HBTU (32 mg, 0.084 mmol), and aniline (7.6 μL, 0.084 mmol). The reaction was stirred at room temperature for 18 hours. The crude was purified by reverse phase preparative HPLC. M.p.>300° C.; 400 MHz 1HNMR (DMSO-d6) δ 13.04 (s, 1H), 11.50 (s, 1H), 10.34 (s, 1H), 8.50 (s, 1H), 8.33 (t, J=1.6 Hz, 1H), 8.26-8.23 (d, J=8.0 Hz, 1H), 7.99 (d, J=2.4 Hz, 1H), 7.88 (d, J=6.8 Hz, 2H), 7.79 (d, J=7.6 Hz, 1H), 7.69-7.53 (m, 5H), 7.37 (t, J=7.6 Hz, 2H), 7.11 (t, J=6.8 Hz, 1H); LCMS [M+H] 434.

reactant | 3-((5-benzoyl-7H-pyrrolo[2,3-d]pyrimidine-4-yl)amino)benzoic acid | 0.07 mmol, 25 mg | C(C1=CC=CC=C1)(=O)C1=CNC=2N=CN=C(C21)NC=2C=C(C(=O)O)C=CC2 | C20H14N4O3
reactant | DIPEA | 0.105 mmol, 18 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | HBTU | 0.084 mmol, 32 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | aniline | 0.084 mmol, 7.6 μL | NC1=CC=CC=C1 | C6H7N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (5-benzoyl-7H-pyrrolo[2,3-d]pyrimidine-4-yl)amino-N-phenylbenzamide | C(C1=CC=CC=C1)(=O)C1=CNC=2N=CN=C(C21)NC2=C(C(=O)NC1=CC=CC=C1)C=CC=C2 | C26H19N5O2
